US09290468B2
Step 1: 7-((1-allylcyclopropyl)sulfonyl)-4-fluoro-5-(2-fluoro-4-iodophenyl)-5H-imidazo[4′,5′:4,5]benzo[1,2-d]thiazol-6(7H)-one
To a solution of 4-fluoro-5-(2-fluoro-4-iodophenyl)-5H-imidazo[4′,5′:4,5]benzo[1,2-d]thiazol-6(7H)-one (50 mg, 0.12 mmol) in DCM (5 mL) was added triethylamine (35 mg, 0.74 mmol) at 0° C. followed by 1-allylcyclopropane-1-sulfonyl chloride (32 mg, 0.18 mmol) and

reactant | 4-fluoro-5-(2-fluoro-4-iodophenyl)-5H-imidazo[4′,5′:4,5]benzo[1,2-d]thiazol-6(7H)-one | 0.12 mmol, 50 mg | FC1=C2C(=CC3=C1N=CS3)NC(N2C2=C(C=C(C=C2)I)F)=O | C14H6F2IN3OS
reactant | triethylamine | 0.74 mmol, 35 mg | C(C)N(CC)CC | C6H15N
reactant | 1-allylcyclopropane-1-sulfonyl chloride | 0.18 mmol, 32 mg | C(C=C)C1(CC1)S(=O)(=O)Cl | C6H9ClO2S
solvent | DCM | 5 mL | C(Cl)Cl | CH2Cl2
product | 7-((1-allylcyclopropyl)sulfonyl)-4-fluoro-5-(2-fluoro-4-iodophenyl)-5H-imidazo[4′,5′:4,5]benzo[1,2-d]thiazol-6(7H)-one | C(C=C)C1(CC1)S(=O)(=O)N1C(N(C=2C1=CC1=C(N=CS1)C2F)C2=C(C=C(C=C2)I)F)=O | C20H14F2IN3O3S2
